US05387747
A mixture of 560 ml of 4-chlorobutyryl chloride and 550 ml of toluene is added dropwise to a suspension of 740 g of AlCl3 in 2 l of dichloromethane, the temperature being maintained at between 10° and 15° C. The reaction mixture is stirred for 30 min at room temperature and poured on to ice. After decantation, the organic phase is separated off and the aqueous phase is extracted with dichloromethane. The organic phases are combined, washed with water and then dried and concentrated under vacuum to give 994.5 g of 4-chloro-1-(4methylphenyl)butanone in the form of an oil, which is used in the next step without further purification.

reactant | 4-chlorobutyryl chloride | 560 ml | ClCCCC(=O)Cl | C4H6Cl2O
reactant | toluene | 550 ml | C1(=CC=CC=C1)C | C7H8
reactant | AlCl3 | 740 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | dichloromethane | 2 l | ClCCl | CH2Cl2
product | 4-chloro-1-(4methylphenyl)butanone | 994.5 g | ClCCC(CC1=CC=C(C=C1)C)=O | C11H13ClO
